US04885367
Fifty ml of a methanol solution containing 3.7 g of 2-cyclohexyloxynitrobenzene and 0.2 g of 5% palladium on carbon was stirred at room temperature under a hydrogen atmosphere for catalytic reduction. The catalyst was removed by filtration, and the filtrate was evaporated off to give 2.9 g of 2-cyclohexyloxyaniline as pale brown crystals.

reactant | 2-cyclohexyloxynitrobenzene | 3.7 g | C1(CCCCC1)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H15NO3
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | methanol | Fifty ml | CO | CH4O
product | 2-cyclohexyloxyaniline | 2.9 g | C1(CCCCC1)OC1=C(N)C=CC=C1 | C12H17NO
